US05424005
1) Synthesis of 4-octyl-biphenyl-4'-terephthalic acid chloride
To a solution of 4-hydroxy-4'-octylbiphenyl (0.5 g) and terephthaloyl chloride (0.36 g) in about dichloromethane (30 ml) was added drop by drop triethylamine (0.2 g). To the solution was added dimethylaminopyridine (0.013 g) and the mixture was stirred at the room temperature for 10 hours to obtain the titled compound.

reactant | 4-hydroxy-4'-octylbiphenyl | 0.5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCCC | C20H26O
reactant | terephthaloyl chloride | 0.36 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | dimethylaminopyridine | 0.013 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
product | 4-octyl-biphenyl-4'-terephthalic acid chloride | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC(=CC=C1C(=O)Cl)C(=O)Cl | C28H28Cl2O2
